US04213985
A mixture of 5.0 g of 11-(5-chlorovaleryl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one, 1.6 g of sodium carbonate and 3 ml of 1-methylpiperazine in 100 ml of ethanol was refluxed for 20 hours and then the hot mixture was vacuum filtered. The filtrate was evaporated to dryness in vacuo and the residue was chromatographed over silica gel to obtain a 37% yield of 5,11-dihydro-11-[5-(4-methyl-1-piperazinyl)-valeryl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one melting at 151°-153° C. after crystallization from ethyl acetate.

reactant | 11-(5-chlorovaleryl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 5.0 g | ClCCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C17H16ClN3O2
reactant | sodium carbonate | 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-methylpiperazine | 3 ml | CN1CCNCC1 | C5H12N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5,11-dihydro-11-[5-(4-methyl-1-piperazinyl)-valeryl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 37% yield | CN1CCN(CC1)CCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C22H27N5O2
